US07060827B2
In a like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 6-aminoindole were reacted to provide 2-chloro-5-fluoro-N4-[(1H)-indol-6-yl]-4-pyrimidineamine. LCMS: purity: 92%; MS (m/e): 263(MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 6-aminoindole | NC1=CC=C2C=CNC2=C1 | C8H8N2
product | 2-chloro-5-fluoro-N4-[(1H)-indol-6-yl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C2C=CNC2=C1)F | C12H8ClFN4
